US03931313
Preparation of N-t-butyl N-(1-butenyl)-dichloroacetamide.
In a similar procedure as Example I, 6.6 g. (0.052 mole) N-butylidene-t-butylamine was reacted with 4.8 ml. (0.05 mole) dichloroacetyl chloride in 100 ml. diethyl ether and 7.2 ml. triethylamine. There was obtained 9.3 g. of the title compound, an oil, nD30 = 1.4858.

reactant | N-butylidene-t-butylamine | 0.052 mole | C(CCC)=NC(C)(C)C | C8H17N
reactant | dichloroacetyl chloride | 0.05 mole | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-t-butyl N-(1-butenyl)-dichloroacetamide | C(C)(C)(C)N(C(C(Cl)Cl)=O)C=CCC | C10H17Cl2NO
